US05783522
3-Chloro-2-(4-chloro-3-methoxyphenyl)-6-ethoxy-5-trifluoromethylpyridine (Table 6, Example I.925)
6.5 g (18 mmol) of 3,6-dichloro-2-(4-chloro-3-methoxyphenyl)-5-trifluoromethylpyridine and 6.1 g (109 mmol) of potassium hydroxide in 100 ml of ethanol were stirred at 23° C. for 41 h. The solvent was then removed by distillation and the residue was taken up in 100 ml of dilute hydrochloric acid. Extraction was carried out three times with 100 ml of methylene chloride each time. The combined extracts were dried over sodium sulfate and then concentrated. Yield: 6.3 g (85%) of a colorless oil (purity about 90%).

reactant | 3,6-dichloro-2-(4-chloro-3-methoxyphenyl)-5-trifluoromethylpyridine | 18 mmol, 6.5 g | ClC=1C(=NC(=C(C1)C(F)(F)F)Cl)C1=CC(=C(C=C1)Cl)OC | C13H7Cl3F3NO
reactant | potassium hydroxide | 109 mmol, 6.1 g | [OH-].[K+]
reactant | ethanol | 100 ml | C(C)O | C2H6O
product | 3-Chloro-2-(4-chloro-3-methoxyphenyl)-6-ethoxy-5-trifluoromethylpyridine | ClC=1C(=NC(=C(C1)C(F)(F)F)OCC)C1=CC(=C(C=C1)Cl)OC | C15H12Cl2F3NO2
